US07135600B2
i) tert-Butyl vinylsulfonylcarbamate
Di-tert-butyldicarbonate (8.62 g) was added to a stirred, cooled (ice bath) solution of ethenesulphonamide (S. Hirooka, Bull. Chem. Soc. Jpn. 1991, 64, 1431) (3.4 g), 4-(dimethylamino)pyridine (410 mg) and triethylamine (7 ml) in dichloromethane (40 ml) under nitrogen. The solution was stirred for 30 min, washed with 2M hydrochloric acid (30 ml), water (50 ml) and dried (Na2SO4) to give the title compound (5.0 g). Tlc (SiO2, 1:1 diethyl ether-cyclohexane) Rf=0.4.

reactant | Di-tert-butyldicarbonate | 8.62 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethenesulphonamide | 3.4 g | C(=C)S(=O)(=O)N | C2H5NO2S
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 410 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | tert-Butyl vinylsulfonylcarbamate | 5.0 g | C(=C)S(=O)(=O)NC(OC(C)(C)C)=O | C7H13NO4S
